US04055572
19.8 g (0.2 mole) of 1-isopropyl-1-cyanohydrazine is added dropwise to a solution of 16.0 g (0.4 mole) of sodium hydroxide and 12.4 g (0.2 mole) of ethyl mercaptan in 75 ml of water. Into the resulting white emulsion there is then introduced 19.8 g (0.2 mole) of phosgene at room temperature, and an exothermic reaction occurs. The reaction mixture cooled to room temperature, from which has separated out a white-yellow precipitate, is extracted with methylene chloride and the extract is dried with sodium sulphate. After removal of the methylene chloride by evaporation in vacuo, the crude product is purified by dissolving it in 50 ml of methanol, treating the solution with animal charcoal and crystallising the resulting product at -50° C. There is obtained 1-isopropyl-3-hydroxy-5-ethylthio-1,2,4-triazole, m.p. 109°-114° C.

reactant | 1-isopropyl-1-cyanohydrazine | 0.2 mole, 19.8 g | C(C)(C)N(N)C#N | C4H9N3
reactant | sodium hydroxide | 0.4 mole, 16.0 g | [OH-].[Na+]
reactant | ethyl mercaptan | 0.2 mole, 12.4 g | C(C)S | C2H6S
reactant | phosgene | 0.2 mole, 19.8 g | C(=O)(Cl)Cl | CCl2O
solvent | water | 75 ml | O | H2O
product | 1-isopropyl-3-hydroxy-5-ethylthio-1,2,4-triazole | C(C)(C)N1N=C(N=C1SCC)O | C7H13N3OS
